US07141596B2
Step 1. (2R)-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]-2-[(phenylsulfonyl)-amino]propanoic acid
Methyl (2S)-2-amino-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)-phenyl]-propanoate trifluoroacetate (77.1 mg, 0.152 mmol) in methanol (1.7 mL,) was treated with triethylamine (85.0 μL, 0.610 mmol) and then benzenesulfonyl chloride (29.2 μL, 0.228 mmol). The solution was stirred at rt for 2 h. 4 M lithium hydroxide in water (0.38 mL) was added and stirred for 3 h at rt. The solution was acidified with aqueous 1 N hydrochloric acid solution (4 mL), diluted with methanol (1.5 mL) and purified by preparative LCMS to afford product as a white solid (55.4 mg, 70%). 1H NMR (400 MHz, CD3OD): δ 7.65–7.62 (m, 2H), 7.53–7.36 (m, 4H), 7.25–7.20 (m, 1H), 5.65 (t, J=6.8 Hz, 1H), 4.06–5.01 (m, 1H), 3.48 (dd, J=16.2, 8.0 Hz, 1H), 3.38–3.28 (m, 1H), 3.11–3.06 (m, 1H), 2.87–2.83 (m, 1H); LCMS found for C18H18BrN2O7S2 (M+H)+: m/z=517.

reactant | Methyl (2S)-2-amino-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)-phenyl]-propanoate trifluoroacetate | 0.152 mmol, 77.1 mg | FC(C(=O)O)(F)F.N[C@H](C(=O)OC)CC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)Br
reactant | triethylamine | 0.610 mmol, 85.0 μL | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 0.228 mmol, 29.2 μL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | lithium hydroxide | 4 M | [OH-].[Li+]
reactant | hydrochloric acid | 1 N, 4 mL | Cl | ClH
solvent | methanol | 1.7 mL | CO | CH4O
solvent | water | 0.38 mL | O | H2O
solvent | methanol | 1.5 mL | CO | CH4O
product | (2R)-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]-2-[(phenylsulfonyl)-amino]propanoic acid | 55.4 mg, 70% | BrC=1C=C(C=CC1C1CC(NS1(=O)=O)=O)C[C@H](C(=O)O)NS(=O)(=O)C1=CC=CC=C1 | C18H17BrN2O7S2
